US09290530B2
The N-TFA group in UDP-GlcNTFA (T5b-10) as well as the N3 group in UDP-GlcN3 (T5b-11) UDP-GlcNAc6N3 (T5b-12), and UDP-GlcN36S (T5b-15) can be easily converted to a free amine, allowing further modifications to generate a diverse array of N-substituted UDP-GlcNAc derivatives. As shown in FIG. 5A, the N-TFA group at C2 of UDP-GlcNTFA T5b-10 (or F5-1) was removed under mild basic condition to produce UDP-glucosamine (UDP-GlcNH2, F5-2) in 98% yield. Selective acylation of the free amine group in F5-2 using various acyl chlorides produced C-2 modified UDP-GlcNAc derivatives UDP-N-acetoxyacetylglucosamine (UDP-GlcNGcAc, F5-4), UDP-N-azidoacetylglucosamine (UDP-GlcNAz, F5-6), UDP-N-phenylacetylglucosamine (UDP-GlcNPh, F5-7), and UDP-N-(1,1′-biphenyl-4-yl)acetylglucosamine (UDP-GlcNPh2, F5-8) in 68-95% yields. Deacetylation of compound F5-4 using catalytic amount of NaOMe in MeOH provided UDP-N-hydroxyacetylglucosamine (UDP-GlcNGc, F5-5) in 98% yield. In addition, although UDP-GlcNS T5b-16 (or F5-3) was unable to be prepared from GlcNS (T5b-8) (Table 5b) in the one-pot three-enzyme system, it was readily obtained by N-sulfation of compound F5-2 with Py.SO3 in 2 M of NaOH aqueous solution in a very good yield (86%) (FIG. 5A). Similarly as shown in FIG. 5B, catalytic hydrogenation of the azido group at the C-6 of UDP-GlcNAc6N3 T5b-12 (or F5-9) generated UDP-6-amino-6-deoxyl-N-acetylglucosamine (UDP-GlcNAc6NH2, F5-10) with an excellent yield (96%). Selective acylation of the free amino group of F5-10 using various acyl chlorides produced C-6 modified UDP-GlcNAc derivatives including UDP-6-acetoxyacetamido-N-acetylglucosamine (UDP-GlcNAc6NGcAc, F5-11), UDP-6-azidoacetamido-N-acetylglucosamine (UDP-GlcNAc6NAz, F5-13), UDP-6-phenylacetamido-N-acetylglucosamine (UDP-GlcNAc6NPh, F5-14), and UDP-N-(1,1′-biphenyl-4-yl)acetamido-N-acetylglucosamine (UDP-GlcNAc6NPh2, F5-15) in 61-91% yields. Finally, C-6 modified derivative UDP-N-hydroxyacetamido-N-acetylglucosamine (UDP-GlcNAc6NGc, F5-12) was obtained in 98% yield by treating compound F5-11 in NaOMe and methanol.

reactant | UDP-GlcNAc | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
reactant | UDP N-acetoxyacetylglucosamine | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O.C(C)(=O)OCC(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO
reactant | UDP N-azidoacetylglucosamine | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O.N(=[N+]=[N-])CC(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO
reactant | UDP N-phenylacetylglucosamine | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O.C1(=CC=CC=C1)CC(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO
reactant | UDP N-(1,1′-biphenyl-4-yl)acetylglucosamine | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O.C1(=CC=C(C=C1)CC(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO)C1=CC=CC=C1
reactant | UDP GlcNPh2 | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O.OC1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)N(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | UDP N-hydroxyacetylglucosamine | 98% yield | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O.OCC(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | InChI=1S/C9H14N2O12P2.C8H15NO7/c12-5-1-2-11(9(15)10-5)8-7(14)6(13)4(22-8)3-21-25(19,20)23-24(16,17)18;10-1-3-6(13)7(14)5(8(15)16-3)9-4(12)2-11/h1-2,4,6-8,13-14H,3H2,(H,19,20)(H,10,12,15)(H2,16,17,18);3,5-8,10-11,13-15H,1-2H2,(H,9,12)/t4-,6-,7-,8-;3-,5-,6-,7-,8?/m11/s1
